* baseline transient strain profile (pwl)
.include bsim4_nmos.subckt
Veps eps_s 0 PWL(0 0 1.66667 0.005 3.33333 0)
Valp alpha 0 dc 0.0
Vdd d 0 dc 1.0
Vgs g 0 dc 0.75
Vss s 0 dc 0.0
Vbb b 0 dc 0.0
Xdev d g s b bsim4_nmos W=10u L=180n
.tran 0.01 5.0
.print tran time v(eps_s) v(alpha) i(Vdd)
.end
